US06517778B1
Example 7—Preparation of Anti-Cephapirin-Cy-5® Conjugate
1 milligram of activated Cy-5® dye (Biological Detector Systems) dissolved in 0.2 ml of 20 mM potassium phosphate buffer, pH 7.2 was combined with 2 ml of a Cephapirin antibody solution (4 mg/ml Cephapirin antibody in 20 mM potassium phosphate buffer at pH 7.2). Cy-5® dye/Cephapirin solution was then stirred at room temperature for 1 hour. The resultant Cy-5®-Cephapirin conjugate was purified on a gel filtration column (Sephadex G-25), where 20 mM potassium phosphate buffer, pH 7.2, was used as both the equilibration and elution buffer.

reactant | Cy-5 | 1 milligram | CC1(C2=C(C=CC(=C2)CC(=O)ON3C(=O)CCC3=O)[N+](=C1C=CC=CC=C4C(C5=C(N4CCCCS(=O)(=O)O)C=CC(=C5)CC(=O)ON6C(=O)CCC6=O)(C)C)CCCCS(=O)(=O)[O-])C.[Na+]
reactant | Cephapirin | 2 ml | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CSC=3C=CN=CC3)SC1)C(=O)O | C17H17N3O6S2
solvent | potassium phosphate | 20 mM, 0.2 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | potassium phosphate | 20 mM | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | Cephapirin Cy-5 | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CSC=3C=CN=CC3)SC1)C(=O)O.CC1(C2=C(C=CC(=C2)CC(=O)ON3C(=O)CCC3=O)[N+](=C1C=CC=CC=C4C(C5=C(N4CCCCS(=O)(=O)O)C=CC(=C5)CC(=O)ON6C(=O)CCC6=O)(C)C)CCCCS(=O)(=O)[O-])C.[Na+] | InChI=1S/C45H52N4O14S2.C17H17N3O6S2.Na/c1-44(2)32-26-30(28-42(54)62-48-38(50)18-19-39(48)51)14-16-34(32)46(22-8-10-24-64(56,57)58)36(44)12-6-5-7-13-37-45(3,4)33-27-31(29-43(55)63-49-40(52)20-21-41(49)53)15-17-35(33)47(37)23-9-11-25-65(59,60)61;1-9(21)26-6-10-7-28-16-13(15(23)20(16)14(10)17(24)25)19-12(22)8-27-11-2-4-18-5-3-11;/h5-7,12-17,26-27H,8-11,18-25,28-29H2,1-4H3,(H-,56,57,58,59,60,61);2-5,13,16H,6-8H2,1H3,(H,19,22)(H,24,25);/q;;+1/t;13-,16-;/m.1./s1
